US06746784B2
A reaction vessel was loaded with 4-bromobenzyl bromide and 1 equivalent of triethyl phosphite. The content of the chamber was heated to 140° C. for 6 hours with stirring. Excess triethyl phosphite was removed from the mixture by vacuum distillation to yield phosphorous acid-4-bromobenzyl diethylester. One equivalent of cyclohexanone and 1.2 equivalent of sodium hydride in a mixed solvent of toluene-dimethylsulfoxide were reacted with the phosphorous acid-4-bromobenzyl diethyl ester whith heating moderately.

reactant | 4-bromobenzyl bromide | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | triethyl phosphite | 1 equivalent | P(OCC)(OCC)OCC | C6H15O3P
product | phosphorous acid-4-bromobenzyl diethylester | C(C)OP(OCC1=CC=C(C=C1)Br)OCC | C11H16BrO3P
